US09302991B2
<Step-2>:(R)—N-(1-(4-(2,2-difluoroethoxy)-3,5-difluorophenyl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 88% yield (750 mg, a white solid) from 1-(4-(2,2-difluoroethoxy)-3,5-difluorophenyl)ethanone (590 mg, 2.5 mmol, Step-1) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(4-(2,2-difluoroethoxy)-3,5-difluorophenyl)ethanone | 2.5 mmol, 590 mg | FC(COC1=C(C=C(C=C1F)C(C)=O)F)F | C10H8F4O2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(4-(2,2-difluoroethoxy)-3,5-difluorophenyl)ethyl)-2-methylpropane-2-sulfinamide | 88% yield | FC(COC1=C(C=C(C=C1F)C(C)N[S@](=O)C(C)(C)C)F)F | C14H19F4NO2S
